US07582643B2
Step B: 3-[(Dimethylamino)methylene]-1-methylpiperidin-4-one
To a solution of 1-methylpiperidin-4-one (10 g, 88 mmol) in toluene (100 mL) was added 1,1-dimethoxy-N,N-dimethylmethanamine (52.7 g, 0.442 mol). The solution was heated to reflux overnight. The solvents were evaporated in vacuo, heptane (100 ml) was added and the solvents evaporated again to give the desired product. NMR indicated that the product was 70-80% pure and it was used in the next step without further purification.

reactant | 1-methylpiperidin-4-one | 88 mmol, 10 g | CN1CCC(CC1)=O | C6H11NO
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 0.442 mol, 52.7 g | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[(Dimethylamino)methylene]-1-methylpiperidin-4-one | CN(C)C=C1CN(CCC1=O)C | C9H16N2O
